US07514461B2
A mixture of 3-(6-hydroxy-2,7,8-trimethyl-chroman-2-yl)-propionic acid (500 mg), 3,4-dihydro-2-H-pyran (2 mL) and pyridinium p-toluenesulfonate (PPTS) (50 mg) in dichloromethane (20 mL) was stirred at RT for overnight. The mixture was washed with water, dried over MgSO4, and concentrated to give an oily residue. The oil was dissolved in THF, then LiAlH4 (85 mg) was added and the mixture was stirred at RT for 2 h. The excess LiAlH4 was destroyed by adding ethyl acetate, and the mixture was poured into water and extracted with EtOAc. The organic layer was washed with water, dried over MgSO4, and concentrated. The residue was purified by silica gel column chromatography eluting with 30% EtOAc in hexane to give 732 mg of 3-[2,7,8-trimethyl-6-(tetrahydro-pyran-2-yloxy)-chroman-2-yl]-propan-1-ol as an oily product. 1H-NMR (300 MHz, CDCl3) δ (ppm): 6.67 (s, 1H), 5.32(t, J=3.2 MHz, 1H), 4.0-3.9 (m, 1H), 3.70-3.55 (m, 3H), 2.75-2.70 (m, 2H), 2.15, 2.09 (2s, 6H), 2.10-1.60 (m, 12H), 1.25 (s, 3H). 13C-NMR (75 MHz, CDCl3) δ (ppm): 148.08, 146.23, 125.51, 125.25, 117.66, 112.99, 112.96, 97.36, 75.17, 63.25, 62.09, 60.41, 36.26, 36.03, 31.51, 31.47, 30.78, 26.97, 25.41, 24.01, 23.81, 22, 48, 21.05, 19.11, 14.19, 12.18, 11.94.

reactant | 3-(6-hydroxy-2,7,8-trimethyl-chroman-2-yl)-propionic acid | 500 mg | OC=1C=C2CCC(OC2=C(C1C)C)(C)CCC(=O)O | C15H20O4
reactant | 3,4-dihydro-2-H-pyran | 2 mL | O1CCCC=C1 | C5H8O
reactant | LiAlH4 | 85 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | THF | C1CCOC1 | C4H8O
catalyst | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
product | 3-[2,7,8-trimethyl-6-(tetrahydro-pyran-2-yloxy)-chroman-2-yl]-propan-1-ol | 732 mg | CC1(OC2=C(C(=C(C=C2CC1)OC1OCCCC1)C)C)CCCO | C20H30O4
